US04908394
A mixture of 35 ml of toluene, 4.6 g of (3-chloropropyl)-2,4-diaminobenzoate and 3.5 g of morpholine was refluxed for 10 hrs, cooled to room temperature, and poured into 70 ml of water with stirring. The precipitate was filtered, washed with hexane and dried. Recrystallization from toluene gave 2.6 g (3-morpholinopropyl)-2,4-diaminobenzoate, a white solid, mp 96° C.

reactant | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
reactant | (3-chloropropyl)-2,4-diaminobenzoate | 4.6 g | ClCCCOC(C1=C(C=C(C=C1)N)N)=O | C10H13ClN2O2
reactant | morpholine | 3.5 g | N1CCOCC1 | C4H9NO
solvent | water | 70 ml | O | H2O
product | (3-morpholinopropyl)-2,4-diaminobenzoate | 2.6 g | O1CCN(CC1)CCCOC(C1=C(C=C(C=C1)N)N)=O | C14H21N3O3
